US05284847
2-Ethoxalylamino-5-isopropylthiophene (6.9 g, 28.5 mol) was dissolved in 50 ml of acetic anhydride, cooled to -10° C., and treated with a solution of fuming nitric acid (1.8 g, 28.5 mmol) in 15 ml of acetic acid. After 20 minutes, the mixture was evaporated in vacuo to yield 8.4 g of crude product which was purified by chromatography on silica gel (toluene:acetone 95:5), to yield 4.8 g (57%) of 2-ethoxalylamino-5-isopropyl-3-nitrothiophene. 1H-NMR (CDCl3, δ): 1.3 (d, 6H), 1.5 (t, 3H), 3.1 (m, 1H), 4.5 (q, 2H), 12.0 (s, 1H).

reactant | 2-Ethoxalylamino-5-isopropylthiophene | 28.5 mol, 6.9 g | C(=O)(C(=O)OCC)NC=1SC(=CC1)C(C)C | C11H15NO3S
reactant | nitric acid | 28.5 mmol, 1.8 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-ethoxalylamino-5-isopropyl-3-nitrothiophene | 4.8 g, 57% | C(=O)(C(=O)OCC)NC=1SC(=CC1[N+](=O)[O-])C(C)C | C11H14N2O5S
